US04143055
0.65 grams of phenylmethylchlorocarbonate are dripped at 5° C. into a stirred mixture containing 0.7 grams of 2,3-dihydro-6-methoxy-2-methyl-4-benzofuranamine hydrochloride, 5 cc of 2N NaOH and 10 cc of chloroform. When the addition is terminated vigorous stirring is continued for one hour at the same temperature and for two hours at room temperature. Then the organic phase is separated, washed with water, dried over Na2SO4 and concentrated to dryness. The obtained residue crystallized twice from ethyl ether-petroleum ether yields 0.9 grams (88 percent of theoretical) of (2,3-dihydro-6-methoxy-2-methyl-4-benzofuranyl)carbamic acid phenylmethyl ester which melts at 82°-83° C.

reactant | phenylmethylchlorocarbonate | 0.65 grams | C1(=CC=CC=C1)COC(=O)Cl | C8H7ClO2
reactant | 2,3-dihydro-6-methoxy-2-methyl-4-benzofuranamine hydrochloride | 0.7 grams | Cl.COC=1C=C2C(CC(O2)C)=C(C1)N
reactant | NaOH | 2N, 5 cc | [OH-].[Na+]
solvent | chloroform | 10 cc | C(Cl)(Cl)Cl | CHCl3
product | (2,3-dihydro-6-methoxy-2-methyl-4-benzofuranyl)carbamic acid phenylmethyl ester | 0.9 grams, 88 percent | C1(=CC=CC=C1)COC(NC1=CC(=CC2=C1CC(O2)C)OC)=O | C18H19NO4
